US06787543B2
(2S)-2-[[N-(2-Oxo-3,3-diphenylpropyl)-(2-methoxybenzyl)amino]methyl]pyrrolidine-1-carboxylic acid benzyl ester (492 mg) was dissolved in a mixture of methanol (7.4 ml) and IN hydrochloric acid (0.5 ml), and the solution was hydrogenated over 10% palladium—charcoal (50% wet) (0.15 g) at room temperature under atmospheric pressure for 15 hours. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure. The residue was partitioned between aqueous saturated sodium hydrogen carbonate and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (4:1). The fractions containing the objective compound were collected and evaporated under reduced pressure and the resulting residue was treated with 4N hydrogen chloride in ethyl acetate to give (8aS)-4-benzhydryloctahydropyrrolo[1,2-a]pyrazine dihydrochloride (221.2 mg) as a colorless solid.

reactant | (2S)-2-[[N-(2-Oxo-3,3-diphenylpropyl)-(2-methoxybenzyl)amino]methyl]pyrrolidine-1-carboxylic acid benzyl ester | 492 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)OC | C36H38N2O4
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 7.4 ml | CO | CH4O
catalyst | palladium—charcoal | 0.15 g | [Pd] | Pd
product | (8aS)-4-benzhydryloctahydropyrrolo[1,2-a]pyrazine dihydrochloride | 221.2 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNC[C@H]2N1CCC2 | InChI=1S/C20H24N2.2ClH/c1-3-8-16(9-4-1)20(17-10-5-2-6-11-17)19-15-21-14-18-12-7-13-22(18)19;;/h1-6,8-11,18-21H,7,12-15H2;2*1H/t18-,19?;;/m0../s1
